US08497281B2
(4-Amino-3-methoxy-phenyl)-(cis-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone
The title compound is prepared from 4-amino-3-methoxy-benzoic acid and cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline following a procedure analogous to that described in Example 1 [2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexa-fluorophosphate is used]. Yield: 64% of theory; LC (method 4): tR=1.84 min; Mass spectrum (ESI+): m/z=337 [M+H]+.

reactant | 4-amino-3-methoxy-benzoic acid | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline | C1CCN[C@H]2CCC3=C([C@@H]12)C=CC=C3 | C13H17N
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexa-fluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
product | (4-Amino-3-methoxy-phenyl)-(cis-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone | Yield: 64% | NC1=C(C=C(C=C1)C(=O)N1CCC[C@@H]2C3=C(CC[C@H]12)C=CC=C3)OC | C21H24N2O2
